US04230623
Preparation of trans-3-(p-dimethylaminophenyl)-2,2-dimethyl-5-phenyl-pyrrolidine
47 G. of 4-(p-dimethylaminophenyl)-5,5-dimethyl-2-phenyl-1-pyrroline 1-oxide are dissolved in a mixture of 400 ml. of ethanol and 400 ml. of formic acid and treated portionwise while stirring with 80 g. of zinc powder. The temperature is held at 43° C. during this addition. Subsequently, the mixture is stirred for a further 2 hours, the zinc sludge is then filtered off and the filtrate evaporated under reduced pressure. The residue is taken up in water, neutralized with 3-N sodium hydroxide and extracted with ether. The ether phase is then dried over sodium sulfate and evaporated under reduced pressure. The residue is chromatographed on silica gel, elution being carried out first with pure benzene and then with benzene/acetone mixtures with increasing acetone content (up to 50% acetone). There is thus obtained trans-3-(p-dimethylaminophenyl)-2,2-dimethyl-5-phenyl-pyrrolidine which melts at 108°-109° C. after crystallization from n-hexane.

reactant | 4-(p-dimethylaminophenyl)-5,5-dimethyl-2-phenyl-1-pyrroline 1-oxide | CN(C1=CC=C(C=C1)C1CC(=[N+](C1(C)C)[O-])C1=CC=CC=C1)C | C20H24N2O
reactant | ethanol | C(C)O | C2H6O
catalyst | zinc | [Zn] | Zn
solvent | formic acid | C(=O)O | CH2O2
product | trans-3-(p-dimethylaminophenyl)-2,2-dimethyl-5-phenyl-pyrrolidine | CN(C1=CC=C(C=C1)[C@@H]1C(N[C@H](C1)C1=CC=CC=C1)(C)C)C | C20H26N2
